*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : APXF2R0ARA681MF61G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT APXF2R0ARA681MF61G_20deg-C 1 2

C1 4 2 5.17e-04
C2 5 2 1.86e-04
C3 6 2 8.07e-06
R1 3 4 1.09e-02
R2 4 5 4.56e-02
R3 5 6 2.02e+01
L1 1 3 2.60e-09

.ENDS
*$
